US09212170B2
(3) 6-(4-Acetamido-3-methyl-5-oxo-2,5-dihydro-1H-pyrazol-1-yl)-N-[4-(trifluoromethyl)phenyl]nicotinamide
6-Hydrazino-N-[4-(trifluoromethyl)phenyl]nicotinamide (0.31 g) and ethyl 2-acetamido-3-oxobutanoate (0.24 g) were suspended in ethanol (25 mL), and the suspension was heated to reflux for 23 hours. The reaction solution was cooled to room temperature, and the obtained solid was collected by filtration and washed with ethanol. The solid was dried under reduced pressure to obtain the title compound (0.20 g) as a white solid (yield: 46%).

reactant | 6-Hydrazino-N-[4-(trifluoromethyl)phenyl]nicotinamide | 0.31 g | N(N)C1=NC=C(C(=O)NC2=CC=C(C=C2)C(F)(F)F)C=C1 | C13H11F3N4O
reactant | ethyl 2-acetamido-3-oxobutanoate | 0.24 g | C(C)(=O)NC(C(=O)OCC)C(C)=O | C8H13NO4
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 6-(4-Acetamido-3-methyl-5-oxo-2,5-dihydro-1H-pyrazol-1-yl)-N-[4-(trifluoromethyl)phenyl]nicotinamide | 0.20 g, yield: 46% | C(C)(=O)NC1=C(NN(C1=O)C1=NC=C(C(=O)NC2=CC=C(C=C2)C(F)(F)F)C=C1)C | C19H16F3N5O3
